US07977482B2
Step 1: Synthesis of 4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-diazenyl)-1,3-thiazole-5-carbaldehyde
1.3 g (18.56 mmol) sodium nitrite was added in small portions to 13.2 g conc. sulphuric acid and cooled to 0° C. and diluted with 4.8 ml propionic acid and 19.2 ml acetic acid. 3.0 g (18.45 mmol) 2-amino-4-chloro-1,3-thiazole-5-carbaldehyde were then added in small portions. The viscous reaction mixture was stirred for 2 hours at 0° C. This mixture was then added slowly to a solution of 3.2 g (18.56 mmol) 2-[ethyl(phenyl)amino]ethanol in 180 ml water, containing 6 ml sulphuric acid. After stirring for another 2 hours at room temperature, the obtained precipitate was filtered off, washed with water and dried at 40° C. in vacuum.

reactant | sodium nitrite | 18.56 mmol, 1.3 g | N(=O)[O-].[Na+]
reactant | sulphuric acid | 13.2 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-amino-4-chloro-1,3-thiazole-5-carbaldehyde | 18.45 mmol, 3.0 g | NC=1SC(=C(N1)Cl)C=O | C4H3ClN2OS
reactant | 2-[ethyl(phenyl)amino]ethanol | 18.56 mmol, 3.2 g | C(C)N(CCO)C1=CC=CC=C1 | C10H15NO
reactant | sulphuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | propionic acid | 4.8 ml | C(CC)(=O)O | C3H6O2
solvent | acetic acid | 19.2 ml | C(C)(=O)O | C2H4O2
solvent | water | 180 ml | O | H2O
product | 4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]phenyl}-diazenyl)-1,3-thiazole-5-carbaldehyde | ClC=1N=C(SC1C=O)\N=N\C1=CC=C(C=C1)N(CCO)CC | C14H15ClN4O2S
